US06916948B2
2-Benzyloxycarbonylaminoethanal (117)
This compound was prepared according to a modified literature procedure (Tetrahedron Lett. P184, 25, 5303). Under an atmosphere of argon, dry dichloromethane (30 ml) was added to powdered (3 Å) molecular sieves (2.13 g) which were previously dried for 2 hours. Solid pyridinium chlorochromate (5.50 g, 25.5 mmol) was then added and the mixture stirred at r.t. under argon for 10 minutes. A solution of 2-benzyloxycarbonylaminoethanol (prepared according to a literature procedure (Tetrahedron, 1991, 47, 2591)) (1.42 g, 7.28 mmol) in dry dichloromethane (30 ml) was added dropwise to the stirred mixture. After 2.5 hours t.l.c. (ethyl acetate/hexane 1:1) indicated complete conversion of the starting material (Rf 0.26) to product (Rf 0.61). The reaction mixture was diluted with diethyl ether (80 ml) and stirred for 10 minutes. The solution was then filtered through a silica plug, eluting with diethyl ether. The residual molecular sieves and pyridinium chlorochromate were collected and crushed in a mortar and pestle with diethyl ether and the resulting solution was filtered through the plug eluting with further diethyl ether. The resulting filtrate was concentrated in vacuo and the ensuing oil purified by flash column chromatography (ethyl acetate/hexane 1:1) to afford the title compound as a colourless oil (777 mg, 55%). δH (CDCl3, 200 MHz): 4.16 (2H, d, J 5.0, CH2CHO), 5.05 5.19 (3H, m, ArCH2, NH), 7.30 7.48 (5H, m, ArH), 9.68 (1H, s, CHO).

reactant | pyridinium chlorochromate | 25.5 mmol, 5.50 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 2-benzyloxycarbonylaminoethanol | C(C1=CC=CC=C1)OC(=O)NCCO | C10H13NO3
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-Benzyloxycarbonylaminoethanal | 777 mg, 55% | C(C1=CC=CC=C1)OC(=O)NCC=O | C10H11NO3
